US06281243B1
3-[(5-Chloro-2,3-dihydro-1H-inden-4-yl)oxy]-azetidine hydrochloride
5-(3-Azetidinyloxy)-isoquinoline dihydrochloride, mp 198° C. starting from 5-(3-azetidinyloxy)-1-(diphenylmethyl)-isoquinoline.

reactant | 5-(3-Azetidinyloxy)-isoquinoline dihydrochloride | Cl.Cl.N1CC(C1)OC1=C2C=CN=CC2=CC=C1
reactant | 5-(3-azetidinyloxy)-1-(diphenylmethyl)-isoquinoline | N1CC(C1)OC1=C2C=CN=C(C2=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O
product | 3-[(5-Chloro-2,3-dihydro-1H-inden-4-yl)oxy]-azetidine hydrochloride | Cl.ClC=1C(=C2CCCC2=CC1)OC1CNC1 | InChI=1S/C12H14ClNO.ClH/c13-11-5-4-8-2-1-3-10(8)12(11)15-9-6-14-7-9;/h4-5,9,14H,1-3,6-7H2;1H
